US04007276
2-Ureido-5H-s-triazolo[5,1-a]isoindole
2-Thioureido-5H-s-triazolo[5,1-a]isoindole (1.15 g, 0.005 mole) is suspended in 20 ml of 2% aqueous sodium hydroxide and 2.3 ml of 36% H2O2 (0.024 mole) is added at 40°-45° C. After 15 minutes, the mixture is heated for 5 minutes at 80° C then, after cooling and neutralizing with dilute hydrochloric acid, the resulting solid precipitate is recovered by filtration and is purified by crystallization from 60% ethanol. Yield 0.83 g; m.p. 261°-3° C.

reactant | 2-Thioureido-5H-s-triazolo[5,1-a]isoindole | 0.005 mole, 1.15 g | N(C(=S)N)C1=NN2C(C3=CC=CC=C3C2)=N1 | C10H9N5S
reactant | H2O2 | 0.024 mole, 2.3 ml | OO | H2O2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 20 ml | [OH-].[Na+]
product | 2-Ureido-5H-s-triazolo[5,1-a]isoindole | N(C(=O)N)C1=NN2C(C3=CC=CC=C3C2)=N1 | C10H9N5O
